US04585867
By working in a manner similar to that described in Example 6, but starting from 3-(4-methoxyanilino)propionic acid (2.88 g; 14.7 mmol), methylene chloride (20 cc) and phosgene (4.3 g; 43.5 mmol), almost pure N-chloroformyl-3-(4-methoxyanilino)propionic acid (3.77 g) is obtained in the form of a white powder which melts at 90° C. After recrystallisation in a hexane/ethyl acetate mixture (50:50 by volume), the product melts at 93° C. The structure of the product obtained is confirmed by the infrared spectrum, mass spectrum and proton nuclear magnetic resonance spectrum.

reactant | 3-(4-methoxyanilino)propionic acid | 14.7 mmol, 2.88 g | COC1=CC=C(NCCC(=O)O)C=C1 | C10H13NO3
reactant | phosgene | 43.5 mmol, 4.3 g | C(=O)(Cl)Cl | CCl2O
solvent | methylene chloride | 20 cc | C(Cl)Cl | CH2Cl2
product | N-chloroformyl-3-(4-methoxyanilino)propionic acid | 3.77 g | ClC(=O)N(C1=CC=C(C=C1)OC)CCC(=O)O | C11H12ClNO4
